US07129235B2
tert-butyl 3-(trifluoroacetyl)-3,8-diazabicyclo[3.2.1]octane-8-carboxylate
8-Benzyl-3-(trifluoroacetyl)-3,8-diazabicyclo[3.2.1]octane (1.95 g, 6.54 mmol) and di-tert-butyl dicarbonate (2.14 g, 9.81 mmol) were combined in ethyl acetate (75 mL) and treated with Pearlman's catalyst (216 mg) under a hydrogen atmosphere (1 atmosphere) with stirring for 48 hours at room temperature. The mixture was filtered and the filtrate was concentrated under reduced pressure. The residue in ethyl acetate (150 mL) was treated with L-aspartic acid and stirred for 2 hours. The mixture was washed with saturated sodium bicarbonate solution and concentrated under reduced pressure to provide the title compound. 1H NMR (CDCl3) δ 1.48 (s, 9H), 1.70 (m, 2H), 1.98 (m, 2H), 3.06 (d, 1H), 3.45 (d, 1H), 3.70 (d, 1H), 4.23 (d, 1H), 4.30 (br, 2H).

reactant | 8-Benzyl-3-(trifluoroacetyl)-3,8-diazabicyclo[3.2.1]octane | 6.54 mmol, 1.95 g | C(C1=CC=CC=C1)N1C2CN(CC1CC2)C(C(F)(F)F)=O | C15H17F3N2O
reactant | di-tert-butyl dicarbonate | 9.81 mmol, 2.14 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pearlman's catalyst | 216 mg | [OH-].[OH-].[Pd+2]
product | tert-butyl 3-(trifluoroacetyl)-3,8-diazabicyclo[3.2.1]octane-8-carboxylate | FC(C(=O)N1CC2CCC(C1)N2C(=O)OC(C)(C)C)(F)F | C13H19F3N2O3
